US08492559B2
Stage 5: 1-(2-Aminoethyl)-N,N-dimethyl-4-(thiophen-2-yl)piperidin-4-amine tris hydrochloride
HCl gas was passed through a solution of 9 g (1 eq.) tert-butyl 2-(4-(dimethylamino)-4-(thiophen-2-yl)piperidin-1-yl)ethylcarbamate in chloroform at 0° C. for ˜30 min. The reaction mixture was then stirred at room temperature for one hour. The reaction course was monitored by thin-layer chromatography (10% MeOH/CHCl3). Once the conversion was complete, the solvent was removed under reduced pressure and 9 g (97%) of product were obtained in the form of a white solid.

reactant | HCl | Cl | ClH
reactant | tert-butyl 2-(4-(dimethylamino)-4-(thiophen-2-yl)piperidin-1-yl)ethylcarbamate | 9 g, 1 eq. | CN(C1(CCN(CC1)CCNC(OC(C)(C)C)=O)C=1SC=CC1)C | C18H31N3O2S
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-Aminoethyl)-N,N-dimethyl-4-(thiophen-2-yl)piperidin-4-amine tris hydrochloride | 9 g, 97% | Cl.Cl.Cl.NCCN1CCC(CC1)(N(C)C)C=1SC=CC1 | InChI=1S/C13H23N3S.3ClH/c1-15(2)13(12-4-3-11-17-12)5-8-16(9-6-13)10-7-14;;;/h3-4,11H,5-10,14H2,1-2H3;3*1H
